US08957068B2
Step 1: Preparation of ethyl 5,6-dichloronicotinate
To a solution of 5,6-dichloronicotinic acid (20.01 g, 104 mmol) in EtOH (500 mL) at 20° C. was added chlorotrimethylsilane (132 mL, 1042 mmol). The reaction was stirred for 72 hours. The reaction mixture was then concentrated and diluted with EtOAc (500 mL), and washed with saturated NaHCO3 (2×100 mL) and brine (100 mL). The organic was then dried (Na2SO4) and concentrated under reduced pressure to give final crude product (21.25 g). LCMS m/z 220.1 (M+H)+, Rt 0.94 min.

reactant | 5,6-dichloronicotinic acid | 104 mmol, 20.01 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | chlorotrimethylsilane | 1042 mmol, 132 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | EtOH | 500 mL | CCO | C2H6O
product | ethyl 5,6-dichloronicotinate | 21.25 g | ClC=1C(=NC=C(C(=O)OCC)C1)Cl | C8H7Cl2NO2
